US07101868B2
Preparation CLXXIX: 1-Ethyl-4,4-dimethyl-1,2,3,4-tetrahydro-quinolin-7-ylamine
The mixture of 1-ethyl-4,4-dimethyl-7-nitro-1,2,3,4-tetrahydro-quinoline (0.28 g) and Pd/C (0.060 g, 10% wt) in 10 mL of EtOAc was placed under H2 which was provided by a balloon and stirred at RT overnight. Then the mixture was filtered through Celite®, condensed, and the residue was purified by flash column chromatography (2% of EtOAc in CH2Cl2). The titled compound was obtained as a pink oil. MS(ES+): 204.8 (M+H)+. Calc'd for C11H16N-204.31.

reactant | 1-ethyl-4,4-dimethyl-7-nitro-1,2,3,4-tetrahydro-quinoline | 0.28 g | C(C)N1CCC(C2=CC=C(C=C12)[N+](=O)[O-])(C)C | C13H18N2O2
solvent | EtOAc | 10 mL | CCOC(=O)C | C4H8O2
catalyst | Pd/C | 0.060 g | [Pd] | Pd
product | 1-Ethyl-4,4-dimethyl-1,2,3,4-tetrahydro-quinolin-7-ylamine | C(C)N1CCC(C2=CC=C(C=C12)N)(C)C | C13H20N2
